US05998436
Synthesis of 4-amino-2,5-dichloro-3,6-difluoropyridine
To a mixed solution of 100 ml chloroform and 40 ml methanol was added 16.2 g of N-(2,5-dichloro-3,6-difluoropyridin-4-yl)phthalimide together with 20 ml of 25% aqueous solution of ammonia, and the mixture was stirred at room temperature for 30 minutes. The solution was concentrated under reduced pressure, and after adding 150 ml of chloroform to the residue, the mixture was washed with 20 ml of 15% aqueous solution of ammonia, and then, with 10 ml of distilled water. The chloroform layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain 4.55 g of the title compound as a colorless powder.

reactant | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
reactant | N-(2,5-dichloro-3,6-difluoropyridin-4-yl)phthalimide | 16.2 g | ClC1=NC(=C(C(=C1F)N1C(C=2C(C1=O)=CC=CC2)=O)Cl)F | C13H4Cl2F2N2O2
reactant | ammonia | N | H3N
solvent | methanol | 40 ml | CO | CH4O
product | 4-amino-2,5-dichloro-3,6-difluoropyridine | 4.55 g | NC1=C(C(=NC(=C1Cl)F)Cl)F | C5H2Cl2F2N2
